US06593333B1
Methoxyacetyl chloride (0.65 ml) was added dropwise to a solution of N-(2-chloro-4-fluoro-5-aminophenyl)phthalimide (1.39 g) and triethylamine (1.16 ml) in dry methylene chloride (45 ml) and the resulting mixture was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with methylene chloride and washed with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulphate, filtered and evaporated to dryness to yield N-[2-chloro-4-fluoro-5-(2-methoxyacetamido)phenyl]phthalimide as a solid (1.72 g, 99%); NMR (CDCl3): 3.53 (s, 3H), 4.04 (s, 2H), 7.37 (d, 1H), 7.81 (m, 2H), 7.98 (m, 2H), 8.57 (d, 1H), 8.62 (broads s, 1H); m/s: [M−H]− 361, 363.

reactant | Methoxyacetyl chloride | 0.65 ml | COCC(=O)Cl | C3H5ClO2
reactant | N-(2-chloro-4-fluoro-5-aminophenyl)phthalimide | 1.39 g | ClC1=C(C=C(C(=C1)F)N)N1C(C=2C(C1=O)=CC=CC2)=O | C14H8ClFN2O2
reactant | triethylamine | 1.16 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | N-[2-chloro-4-fluoro-5-(2-methoxyacetamido)phenyl]phthalimide | 1.72 g, 99% | ClC1=C(C=C(C(=C1)F)NC(COC)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C17H12ClFN2O4
